US08084645B2
To a solution of ethyl bromoacetate (2.05 g, 12.3 mmol) in dimethylformamide (15 ml), N-hydroxyphthalimide (3.04 g, 18.4 mmol) and Hunig base (N,N-diisopropylethylamine, 4.24 mL) were added at room temperature, and the mixture was stirred at 80° C. overnight. The reaction solution was poured into saturated aqueous solution of ammonium chloride, and the resulting mixture was extracted with ethyl acetate (3×40 ml). The combined organic layer was washed with saturated brine (2×30 ml), dried over Na2SO4, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (100 g, n-hexane/ethyl acetate=2:1) to give (1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-acetic acid ethyl ester (1.83 g, 60%) as a pale yellow solid.

reactant | ethyl bromoacetate | 12.3 mmol, 2.05 g | BrCC(=O)OCC | C4H7BrO2
reactant | N-hydroxyphthalimide | 18.4 mmol, 3.04 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | Hunig base | 4.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-acetic acid ethyl ester | 1.83 g, 60% | C(C)OC(CON1C(C2=CC=CC=C2C1=O)=O)=O | C12H11NO5
